US07655666B2
N-(2,4-Dioxo-6-pyridazin-3-yl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide
To a solution of 2-amino-5-pyridazin-3-yl-4-trifluoromethyl-benzoic acid methyl ester (79 mg, 0.266 mmol) in dioxane (4 mL) under argon was added 4-chlorophenyl chloroformate (44.6 μL, 0.319 mmol). The solution was stirred at 85° C. for 30 min and cooled to r.t. CH3SO2NHNH2 (58.5 mg, 0.531 mmol) and i-Pr2NEt (46.4 μL, 0.266 mmol) were added and the reaction mixture was heated back to 85° C. for 3 h. The mixture was concentrated in vacuo and the residue was purified by two consecutive flash chromatographies (silica gel, DCM 5% MeOH in DCM) then (silica gel, 7:3 EtOAc/hexanes). The product was suspended in a minimum amount of EtOAc, sonicated then taken into hexanes. The solid was collected by vacuum filtration to furnish the title compound (13 mg, 12%) as a white solid. API-ES: m/z 402.0 [M+H]+, rt 3.36 min, Method N—05—100: 5%→100% (6 min), 100% (1.5 min), 100%→5% (0.5 min)

reactant | 2-amino-5-pyridazin-3-yl-4-trifluoromethyl-benzoic acid methyl ester | 0.266 mmol, 79 mg | COC(C1=C(C=C(C(=C1)C=1N=NC=CC1)C(F)(F)F)N)=O | C13H10F3N3O2
reactant | 4-chlorophenyl chloroformate | 0.319 mmol, 44.6 μL | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | CH3SO2NHNH2 | 0.531 mmol, 58.5 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | i-Pr2NEt | 0.266 mmol, 46.4 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-(2,4-Dioxo-6-pyridazin-3-yl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 13 mg, 12% | O=C1NC2=CC(=C(C=C2C(N1NS(=O)(=O)C)=O)C=1N=NC=CC1)C(F)(F)F | C14H10F3N5O4S
